US07947706B2
To a solution of 4 g of 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride in 100 mL of methanol are added dropwise 6 mL of thionyl chloride at room temperature. The reaction mixture is then stirred for 5 hours at room temperature, and then concentrated under reduced pressure. The residue obtained is triturated in 50 mL of ethyl ether and then dried under vacuum at 40° C. 3.22 g of methyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride are obtained in the form of a pale yellow solid, which is used in unmodified form in the following step.

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride | 4 g | Cl.N1C(=CC=2C1=NC=CC2)C(=O)O
reactant | thionyl chloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 mL | CO | CH4O
product | methyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride | 3.22 g | Cl.N1C(=CC=2C1=NC=CC2)C(=O)OC | InChI=1S/C9H8N2O2.ClH/c1-13-9(12)7-5-6-3-2-4-10-8(6)11-7;/h2-5H,1H3,(H,10,11);1H
